US06452041B1
(E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1 ′-biphenyl-4-yl)-2-pentenoic Acid Cyclohexylamine Salt
A solution of potassium tert-butoxide (6.6 Kg, 59 mol) in THF (22 liters) was added over 1 hour to a stirred solution of sodium 1-hydroxy-3-(2-methyl-1,1′-biphenyl-4-yl)-1-propanesulfonate (4.55 Kg, 13.8 mol) and 3-(diethoxyphosphoryl)succinic acid 1-tert-butyl ester (4.94 Kg, 15.9 mol) in THF (5.2 liters) and tert-butanol (18.3 liters), from −5 to 0° C., under nitrogen. The mixture was stirred from −5 to 0° C. for 4 hours and then a solution of citric acid (12.0 Kg, 62 mol) in demineralised water (28 liters) was added in one portion. The pH was adjusted to pH4-5 by the addition of aqueous sodium hydroxide solution (40%) and the organic phase was separated. The organic phase was concentrated in vacuo to a volume of approximately 25 liters and then recombined with the aqueous phase. Ethyl acetate (28 liters) was added and the organic phase was separated and then washed with a solution of sodium bicarbonate (3.18 Kg) in demineralised water (45 liters). Demineralised water (15 liters) was added and the pH was adjusted to pH 4-5 by the addition of a solution of citric acid (2.27 Kg) in demineralised water (23 liters). The organic phase was separated, washed with demineralised water (14 liters) and then azeotropically dried by distillation at atmospheric pressure at a constant volume of 56 liters. The reaction was cooled to 35 to 40° C. and cyclohexylamine (1.10 Kg, 11.1 mol) was added in one portion. The mixture was cooled to 20-25° C. and was stirred for 18 hours. The mixture was then cooled to 0° C., and was stirred for 2 hours and then filtered. The residue was washed with ethyl acetate (5 liters), then dried in vacuo at 40-45° C. to leave the title compound as a colourless solid (4.1 Kg, 61% yield, 89% pure by HPLC).

reactant | potassium tert-butoxide | 59 mol, 6.6 Kg | CC(C)([O-])C.[K+]
reactant | sodium 1-hydroxy-3-(2-methyl-1,1′-biphenyl-4-yl)-1-propanesulfonate | 13.8 mol, 4.55 Kg | OC(CCC1=CC(=C(C=C1)C1=CC=CC=C1)C)S(=O)(=O)[O-].[Na+]
reactant | 3-(diethoxyphosphoryl)succinic acid 1-tert-butyl ester | 15.9 mol, 4.94 Kg | C(C)(C)(C)OC(CC(C(=O)O)P(=O)(OCC)OCC)=O | C12H23O7P
reactant | citric acid | 62 mol, 12.0 Kg | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydroxide | [OH-].[Na+]
reactant | cyclohexylamine | 11.1 mol, 1.10 Kg | C1(CCCCC1)N | C6H13N
solvent | THF | 22 liters | C1CCOC1 | C4H8O
solvent | THF | 5.2 liters | C1CCOC1 | C4H8O
solvent | tert-butanol | 18.3 liters | C(C)(C)(C)O | C4H10O
solvent | water | 28 liters | O | H2O
product | (E)-2-[2-(tert-butoxy)-2-oxoethyl]-5-(2-methyl-1,1 ′-biphenyl-4-yl)-2-pentenoic Acid Cyclohexylamine Salt | 4.1 Kg, 61% yield | C1(CCCCC1)N.C(C)(C)(C)OC(C/C(/C(=O)O)=C\CCC1=CC(=C(C=C1)C1=CC=CC=C1)C)=O | InChI=1S/C24H28O4.C6H13N/c1-17-15-18(13-14-21(17)19-10-6-5-7-11-19)9-8-12-20(23(26)27)16-22(25)28-24(2,3)4;7-6-4-2-1-3-5-6/h5-7,10-15H,8-9,16H2,1-4H3,(H,26,27);6H,1-5,7H2/b20-12+;
